US07714010B2
N-{3-[2-(7,7-Dimethyl-6-oxo-5-pentyl-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-ethyl]-phenyl}-acetamide is prepared from 3-(3-amino-phenyl)-N-(3,3-dimethyl-6-nitro-2-oxo-1-pentyl-2,3-dihydro-1H-indol-5-yl)-propionamide as described in Example 3b. Under the microwave conditions the acetylated product is formed. The desired N-{3-[2-(7,7-dimethyl-6-oxo-5-pentyl-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-ethyl]-phenyl}-acetamide (229 mg) is obtained by flash chromatography on silica gel eluting with CH2Cl2/MeOH (99:1).

reactant | 3-(3-amino-phenyl)-N-(3,3-dimethyl-6-nitro-2-oxo-1-pentyl-2,3-dihydro-1H-indol-5-yl)-propionamide | NC=1C=C(C=CC1)CCC(=O)NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCCCC)=O)(C)C | C24H30N4O4
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-{3-[2-(7,7-dimethyl-6-oxo-5-pentyl-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-ethyl]-phenyl}-acetamide | 229 mg | CC1(C(N(C=2C=C3C(=CC12)NC(=N3)CCC=3C=C(C=CC3)NC(C)=O)CCCCC)=O)C | C26H32N4O2
